US05602161
4-[2-(4-Isopropylphenyl)tetrazol-5-yl)phenyl pivalate
Triethylamine (0.167 g) and 4-dimethylaminopyridine (0.02 g) were added to a solution of 4-[2-(4-isopropylphenyl)tetrazol-5-yl]phenol (0.42 g), obtained in the reference example 2, in dichloromethane (5 ml), and pivaloyl chloride (0.199 g) was added to the solution under ice cooling. Stirring was continued for 1 h at the same temperature. The mixture was washed with water, dried and evaporated to dryness. The residue was recrystallized from ethyl acetate-hexane to give 0.3 g (55%) of the title compound.

reactant | Triethylamine | 0.167 g | C(C)N(CC)CC | C6H15N
reactant | 4-[2-(4-isopropylphenyl)tetrazol-5-yl]phenol | 0.42 g | C(C)(C)C1=CC=C(C=C1)N1N=C(N=N1)C1=CC=C(C=C1)O | C16H16N4O
reactant | pivaloyl chloride | 0.199 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
catalyst | 4-dimethylaminopyridine | 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[2-(4-Isopropylphenyl)tetrazol-5-yl)phenyl pivalate | 0.3 g, 55% | C(C(C)(C)C)(=O)OC1=CC=C(C=C1)C=1N=NN(N1)C1=CC=C(C=C1)C(C)C | C21H24N4O2
